US04530929
A solution of 2,3-dihydro-2,3-dioxo-1H-indole-7-propandioic acid dimethyl ester (1.4 g, 0.0048 mole) is dissolved in acetic acid (100 ml) and in the presence of 20% Pd/C is treated with hydrogen gas at 50 psi. The solution is filtered and concentrated to yield 2,3-dihydro-2-oxo-1H-indole-7-propandioic acid dimethyl ester. This is purified by flash chromatography on silica (elution with 7:3 hexane: ethyl acetate) to give after concentration pure 2,3-dihydro-2-oxo-1H-indole-7-propandioic acid dimethyl ester, mp 161°-161.5° C.

reactant | 2,3-dihydro-2,3-dioxo-1H-indole-7-propandioic acid dimethyl ester | 0.0048 mole, 1.4 g | COC(C(C(=O)OC)C=1C=CC=C2C(C(NC12)=O)=O)=O | C13H11NO6
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | Pd/C | [Pd] | Pd
product | 2,3-dihydro-2-oxo-1H-indole-7-propandioic acid dimethyl ester | COC(C(C(=O)OC)C=1C=CC=C2CC(NC12)=O)=O | C13H13NO5
